US07718693B2
1-(1-Methylethyl)-5-oxo-proline (0.060 g, 0.35 mmol, prepared as described below) was dissolved in dichloromethane (3 ml) and dimethylformamide (1 ml) and to this was added 1-hydroxybenzotriazole (0.052 g, 0.39 mmol), [(2-chloro-4-fluorophenyl)methyl]amine (0.061 g, 0.39 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.074 g, 0.39 mmol) under an atmosphere of argon. The mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane and washed sequentially with 2M aqueous hydrogen chloride and saturated aqueous sodium hydrogen carbonate. The organic layer was filtered through a phase separator and then evaporated to give the crude product. The crude material was purified by mass-directed automated HPLC to give pure N-[(2-chloro-4-fluorophenyl)methyl]-1-(1-methylethyl)-5-oxo-prolinamide (0.032 g) as a white solid. LC/MS [M+H]+=313.1, retention time=2.26 minutes.

reactant | 1-(1-Methylethyl)-5-oxo-proline | 0.35 mmol, 0.060 g | CC(C)N1[C@H](C(=O)O)CCC1=O | C8H13NO3
reactant | 1-hydroxybenzotriazole | 0.39 mmol, 0.052 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.39 mmol, 0.061 g | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.39 mmol, 0.074 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[(2-chloro-4-fluorophenyl)methyl]-1-(1-methylethyl)-5-oxo-prolinamide | 0.032 g | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(CC1)=O)C(C)C)=O | C15H18ClFN2O2
